US08022223B2
Step A: Preparation of 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)acetic acid:
Prepared according to the method of Example 70, Step B, using tert-butyl 4-(2-ethoxy-1-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)-2-oxoethyl)piperidine-1-carboxylate (1.51 g, 2.59 mmol) and 4N NaOH (15 mL); (1.42 g, 98.6% yield).

reactant | tert-butyl 4-(2-ethoxy-1-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)-2-oxoethyl)piperidine-1-carboxylate | 2.59 mmol, 1.51 g | C(C)OC(C(SC=1C=NC(=C(C1)OC1=CC=CC=C1)NC=1SC=C(N1)C)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H36N4O5S2
reactant | NaOH | 4N, 15 mL | [OH-].[Na+]
product | 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)acetic acid | 98.6% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(=O)O)SC=1C=NC(=C(C1)OC1=CC=CC=C1)NC=1SC=C(N1)C | C27H32N4O5S2
